US08871782B2
Solid cesium carbonate (18.33 g, 56.22 mmol) was added to a solution of 2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-8-ol (10.7 g, 37.5 mmol), prepared in Parts A-I, in DMF (185 mL). tert-Butyl 2-iodoethylcarbamate (11.17 g, 41.2 mmol), prepared in Parts J and K, was added, and the reaction mixture was heated at 65° C. for 18 hours. The solvent was removed under reduced pressure, and the residue was partitioned between dichloromethane and water. The organic fraction was washed with water (4×100 mL) and brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure to provide a black oil. The oil was purified by column chromatography on silica gel (eluting with 98:2 dichloromethane:methanol) to yield 14.6 g of tert-butyl[2-(2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-8-yloxy)ethyl]carbamate as a tan, waxy solid.

reactant | cesium carbonate | 56.22 mmol, 18.33 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-8-ol | 37.5 mmol, 10.7 g | C(C)OCC=1N(C2=C(C=NC=3C=CC(=CC23)O)N1)CCC | C16H19N3O2
reactant | tert-Butyl 2-iodoethylcarbamate | 41.2 mmol, 11.17 g | ICCNC(OC(C)(C)C)=O | C7H14INO2
solvent | DMF | 185 mL | CN(C)C=O | C3H7NO
product | tert-butyl[2-(2-ethoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-8-yloxy)ethyl]carbamate | 14.6 g | C(C)(C)(C)OC(NCCOC1=CC=2C3=C(C=NC2C=C1)N=C(N3CCC)COCC)=O | C23H32N4O4
